US07732461B2
3-Chloro-4-[(4-{[(7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
The free base of the title compound was prepared from 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (75 mg) and 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003064421, Example 15(c)) (50 mg) according to the general method of Example 2(h) in 84% yield.

reactant | 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 75 mg | NC1CCN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl | C16H19ClN4O
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
product | 3-Chloro-4-[(4-{[(7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | 84% yield | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NCC=3C(=CC=1OCC(NC1N3)=O)Cl)=O | InChI=1S/C24H24Cl2N6O3.ClH/c25-15-7-19-24(30-20(33)12-35-19)29-18(15)9-27-14-3-5-31(6-4-14)10-13-11-32-21(34)2-1-17-23(32)22(13)16(26)8-28-17;/h1-2,7-8,13-14,27H,3-6,9-12H2,(H,29,30,33);1H
